US08003654B2
9) Synthesis of ethyl-(3-fluoro-pyridin-2-ylmethyl)-amine
prepared by reaction of the commercially available 3-fluoro-pyridin-2-carbaldehyde with 2M ethylamine in THF.

reactant | 3-fluoro-pyridin-2-carbaldehyde | FC=1C(=NC=CC1)C=O | C6H4FNO
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(3-fluoro-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC=CC=C1F | C8H11FN2
